US07495103B2
A mixture of 5-methoxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester (1 g, 7.1 mmol) in 10% NaOH solution (50 mL) was heated to reflux overnight and then cooled to room temperature. The mixture was extracted with ether. The aqueous phase was separated and acidified with conc. HCl solution to pH 1-2. The resulting precipitate was collected by filtration to give 5-methoxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid (A-4) (530 mg, 52%). 1H NMR (DMSO) δ: 15.9 (s, 1H), 13.2 (br, 1H), 8.71 (s, 1H), 7.71 (t, J=8.1 Hz, 1 H), 7.18 (d, J=8.4 Hz, 1H), 6.82 (d, J=8.4 Hz, 1H), 3.86 (s, 3H); ESI-MS 219.9 m/z (MH+).

reactant | 5-methoxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 7.1 mmol, 1 g | C(C)OC(=O)C1=CNC2=CC=CC(=C2C1=O)OC | C13H13NO4
solvent | NaOH | 50 mL | [OH-].[Na+]
product | 5-methoxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 530 mg, 52% | COC1=C2C(C(=CNC2=CC=C1)C(=O)O)=O | C11H9NO4
